US06545031B1
c) 1-Butyl-5-[2-(2-methoxycarbonylphenylmethoxy)-4methoxyphenyl]-1H-pyrazole
To a 5 L round bottomed flask was added (E)-methyl 2-[[2-[3-(diethylamino)-1-oxo-2-propenyl]-5-methoxyphenoxy]methyl]benzoate (150 g, 0.37 mol), 2.9 L of methanol and 0.45 L of water. After complete dissolution, a premixed quantity of sodium acetate (294 g, 3.58 mol) and n-butylhydrazine oxalate salt (133 g, 0.746 mol) was added via a powder funnel in rapid portions over a period of 20 minutes. The reaction mixture was blanketed with nitrogen during the reaction period. After 20 hours the reaction mixture was partitioned between 3 L of ethyl acetate and 3 L of water. The aqueous was removed and poured into 2 L of ethyl acetate and the aqueous was separated once again. This operation was repeated once more with 1.2 L of ethyl acetate (a total of 6 L of ethyl acetate used in total). The combined organic extracts were dried (magnesium sulfate) and concentrated under reduced pressure to 187 g of a thick oil. Flash chromatography (50% TBME/Hex) afforded the title compound (153 g, 73% yield) as a colourless oil which slowly solidified on standing: 1H NMR (300 MHz, CDCl3) δ 8.02 (1H, d), 7.6 (1H, d), 7.52-7.22 (3H, m), 7.12 (1H, d), 6.64 (1H, d), 6.54 (1H, dd), 6.20 (1H, s), 5.48 (2H, s), 4.01 (2H, t), 3.89 (s 3H), 3.76 (3H, s), 1.7-1.5 (2H, m), 1.2-1.05 (2H, m), 0.7 (3H, t).

reactant | (E)-methyl 2-[[2-[3-(diethylamino)-1-oxo-2-propenyl]-5-methoxyphenoxy]methyl]benzoate | 0.37 mol, 150 g | C(C)N(/C=C/C(=O)C1=C(OCC2=C(C(=O)OC)C=CC=C2)C=C(C=C1)OC)CC | C23H27NO5
reactant | methanol | 2.9 L | CO | CH4O
reactant | sodium acetate | 3.58 mol, 294 g | C(C)(=O)[O-].[Na+]
reactant | n-butylhydrazine oxalate salt | 0.746 mol, 133 g | C(C(=O)O)(=O)O.C(CCC)NN
solvent | TBME | CC(C)(C)OC | C5H12O
solvent | water | 0.45 L | O | H2O
product | 1-Butyl-5-[2-(2-methoxycarbonylphenylmethoxy)-4methoxyphenyl]-1H-pyrazole | 153 g, 73% yield | C(CCC)N1N=CC=C1C1=C(C=C(C=C1)OC)OCC1=C(C=CC=C1)C(=O)OC | C23H26N2O4
